US04173639
2-(2,2,2-Trifluoroethoxy)-3-Aminopyridine
2-(2,2,2-Trifluoroethoxy)-5-nitropyridine (5.0 grams), powdered iron (15 grams), and ammonium chloride (25 grams) were refluxed in 3A ethanol until TLC detected no starting material (about 4 hours). The reaction mixture was filtered, washed with water, and solvents removed, yielding 1.0 gram of the product as a thin brownish liquid. NMR confirmed the identity of the product.

reactant | 2-(2,2,2-Trifluoroethoxy)-5-nitropyridine | 5.0 grams | FC(COC1=NC=C(C=C1)[N+](=O)[O-])(F)F | C7H5F3N2O3
reactant | ammonium chloride | 25 grams | [Cl-].[NH4+]
catalyst | iron | 15 grams | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 2-(2,2,2-Trifluoroethoxy)-3-Aminopyridine | 1.0 gram | FC(COC1=NC=CC=C1N)(F)F | C7H7F3N2O
